US08609731B2
(S)-6-Pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-ylamine
A solution of ((S)-6-amino-5,6,7,8-tetrahydronaphthalen-2-yl)pyrrolidin-1-yl-methanone (0.49 g) in THF (5 ml) was added dropwise to a suspension of lithium aluminum hydride (0.60 g) in THF (10 ml). The mixture was stirred at RT for one hour. Water (0.6 ml) was cautiously added dropwise, followed by sodium hydroxide solution (16%; 2 ml) and water again (2 ml). The resulting precipitate was filtered off and the filtrate was concentrated. The residue was taken up in hydrochloric acid (1N) and the solution was washed with diethyl ether. The aqueous phase was basified with concentrated sodium hydroxide solution and extracted three times with dichloromethane (DCM). The combined organic phases were dried over magnesium sulfate and concentrated. The product was thus obtained with the molecular weight of 230.36 (C15H22N2); MS (ESI): 231 (M+H+). In an analogous manner, (S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-ylamine and (S)-6-azepan-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-ylamine were prepared.

reactant | ((S)-6-amino-5,6,7,8-tetrahydronaphthalen-2-yl)pyrrolidin-1-yl-methanone | 0.49 g | N[C@@H]1CC=2C=CC(=CC2CC1)C(=O)N1CCCC1 | C15H20N2O
reactant | lithium aluminum hydride | 0.60 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | (S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-ylamine | COC1CCN(CC1)CC=1C=C2CC[C@@H](CC2=CC1)N | C17H26N2O
reactant | (S)-6-azepan-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-ylamine | N1(CCCCCC1)CC=1C=C2CC[C@@H](CC2=CC1)N | C17H26N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | Water | 0.6 ml | O | H2O
product | (S)-6-Pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-ylamine | N1(CCCC1)CC=1C=C2CC[C@@H](CC2=CC1)N | C15H22N2
